**** A Voltage Controlled Photodiode*****
**** C:\Program Files\LTC\LTspiceIV\lib\sub\photodiode.sub

.subckt photodiode +Vl -Vl Cathode Anode

D1 N001 Cathode PDBC156
Rsh Cathode N001 {Rsh}
Rs N001 Anode {Rs}
G§Iph Cathode N001 +Vl -Vl .5
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.MODEL PDBC156 D(IS=3.1e-12 N=1.03 RS=0 KF=0.01 Cjo={Cjo} M=0.13 + Vj={Vj} BV={BV})
.param Rs=3 Rsh=150MEG Cjo=10p BV=50 Vj=1

.ends photodiode
